US07064124B2
4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid
4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid (312 mg, 0.6902 mmol) was dissolved in a mixed solution of acetonitrile (15 ml) and water (5 ml) and after adding thereto ammonium cerium(IV) nitrate (hereinafter simply referred to as “CAN”) (946 mg, 1.7262 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was recrystallized from ether to obtain the titled compound (187 mg, 0.4431 mmol, 64%).

reactant | 4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoic acid | 0.6902 mmol, 312 mg | COC=1C(=C(CC2=CC(=C(C(=O)O)C=C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | ammonium cerium(IV) nitrate | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | CAN | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
product | 4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid | 0.4431 mmol, 187 mg, 64% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)OCC1=CC=CC=C1)C)=O | C24H22O7
